US06891044B2
1-Bromostyrene (26 μL, 0.20 mmol, 2.0 equiv) was dissolved in THF (0.75 mL), cooled to −78° C. and was treated with t-BuLi (235 μL, 0.40 mmol, 1.70 M, 4.0 equiv). The mixture was allowed to warm to 42° C. for 10 min and was added to freshly dried zinc chloride (34 mg, 0.25 mmol, 2.5 equiv). The resulting solution was allowed to warm to 23° C. with stirring for 25 min. This mix was added to a mixture of neat 3,6-Diiodo-1-[2-(triethyl-silanyl)-ethoxymethyl]-1H-indazole (50 mg, 0.10 mmol, 1 equiv) and Pd(PPh3)4 (5 mg, 0.004 mmol, 0.04 equiv). After 10 min the reaction was determined to be complete by TLC monitoring and was quenched with saturated sodium bicarbonate. Organic material was extracted into ethyl acetate, dried over sodium sulfate and concentrated under reduced pressure. Silica gel chromatography (5:95 ethyl acetate-hexane) provided 3-Iodo-6-(1-phenyl-vinyl)-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole (33.1 mg, 70%): Rf sm 0.39, p 0.36 (ethyl acetate-hexane 1:9); 1H NMR (300 MHz, CDCl3) δ 7.50 (s, 1H), 7.42 (d, 1H, J=8.4 Hz), 7.33 (m, 5H), 7.22 (dd, 1H, J=1.2, 8.4 Hz), 5.68 (s, 2H), 5.59 (d, 1H, J=1.0 Hz), 5.57 (d, 1H, J=1.0 Hz), 3.58 (t, 2H, J=8.2 Hz), 0.88 (t, 2H, J=8.2 Hz), −0.09 (s, 9H); HRMS (FAB) [m+H]/z Calc'd 477.0859, found 477.0866.

reactant | 1-Bromostyrene | 0.20 mmol, 26 μL, 2.0 equiv | BrC1(C=C)CC=CC=C1 | C8H9Br
reactant | t-BuLi | 0.40 mmol, 1.70 M, 235 μL, 4.0 equiv | [Li]C(C)(C)C
reactant | 3,6-Diiodo-1-[2-(triethyl-silanyl)-ethoxymethyl]-1H-indazole | 0.10 mmol, 50 mg, 1 equiv | IC1=NN(C2=CC(=CC=C12)I)COCC[Si](CC)(CC)CC | C16H24I2N2OSi
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.25 mmol, 34 mg, 2.5 equiv | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.004 mmol, 5 mg, 0.04 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Iodo-6-(1-phenyl-vinyl)-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | 33.1 mg, 70% | IC1=NN(C2=CC(=CC=C12)C(=C)C1=CC=CC=C1)COCC[Si](C)(C)C | C21H25IN2OSi
